US07902247B2
A mixture of 4-(1-(3-chlorophenyl)-2-phenylvinyl)-1H-imidazole (AGN-216677) (35 mg) in EtOH (10 mL) was reduced by the action of 10% Pd/C (20 mg) under H2 atmosphere for l6 h at rt. The mixture was filtered through Celite and freed of solvent under reduced pressure. The residue was purified by chromatography on silica gel with 5% NH3-MeOH: CH2Cl2 to give 4-(1,2-diphenylethyl)-1H imidazole as a solid, (31 mg), AGN217242. 1H NMR (300 MHz, CD3OD): δ 7.38 (s, 1H), 7.10-7.26 (m, 8H), 7.08 (s, 1H), 4.41 (t, J=9 Hz, 3H), 3.43 (dd; J=9 Hz, 15 Hz, 1H), 3.27 (dd, J=6 Hz, 9 Hz, 1H).

reactant | 4-(1-(3-chlorophenyl)-2-phenylvinyl)-1H-imidazole | 35 mg | ClC=1C=C(C=CC1)C(=CC1=CC=CC=C1)C=1N=CNC1 | C17H13ClN2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-(1,2-diphenylethyl)-1H imidazole | C1(=CC=CC=C1)C(CC1=CC=CC=C1)C=1N=CNC1 | C17H16N2
